US04126687
A mixture of 2.21 parts of 1-{3-[4-(5-chloro-2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one, 0.71 parts of iodomethane, 0.28 parts of sodium methanolate and 40 parts of methanol is stirred overnight at room temperature. The reaction mixture is evaporated. The residue is stirred with water and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 1.1 parts of 1-[3-{4-[5-chloro-2-(methylthio)-1H-benzimidazol-1-yl]-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one; mp. 196.1° C.

reactant | 1-{3-[4-(5-chloro-2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=S)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C22H24ClN5OS
reactant | iodomethane | IC | CH3I
reactant | sodium methanolate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[3-{4-[5-chloro-2-(methylthio)-1H-benzimidazol-1-yl]-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(=N2)SC)C2CCN(CC2)CCCN2C(NC3=C2C=CC=C3)=O)C=C1 | C23H26ClN5OS
